US09388189B2
(S)-2-(1-((6-Amino-5-(3,5-difluoro-4-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (260 mg, 0.59 mmol) was treated with (3,5-difluoro-4-hydroxyphenyl)boronic acid (154 mg, 0.89 mmol), sodium carbonate (2 M, 1.33 mL, 2.66 mmol) and 2′-(dimethylamino)-2-biphenylyl-palladium(II) chloride dinorbornylphosphine complex (17 mg, 0.03 mmol) according to the method described in the Preparation 17. The residue was purified using SP1® Purification System (0% to 60%, hexane-ethyl acetate) to give 44 mg (15% yield) of the title compound as a white solid. Purity 95%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.59 mmol, 260 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | (3,5-difluoro-4-hydroxyphenyl)boronic acid | 0.89 mmol, 154 mg | FC=1C=C(C=C(C1O)F)B(O)O | C6H5BF2O3
reactant | sodium carbonate | 2.66 mmol, 2 M, 1.33 mL | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((6-Amino-5-(3,5-difluoro-4-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 44 mg, 15% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC(=C(C(=C2)F)O)F | C25H21F2N7O2
